US07071225B2
Step A. 1,4-dimethoxy-naphthalene-2-carboxaldehyde
To a solution of 1,4-dimethoxy-naphthalene (5 g, 26.6 mmol) in dichloromethane (100 mL) at 0° C. was added dichloromethyl methyl ether (3.66 g, 31.9 mmol) and stannic chloride (13.8 g, 53.1 mmol). The reaction mixture was stirred for 30 min at this temperature, allowed to warm to room temperature and stirred for an additional 30 min. Water (100 mL) was added and the mixture was extracted with dichloromethane (2×100 mL) and the combined extracts dried (MgSO4). The solvent was removed under reduced pressure and the residue was purified by column chromatography (silica gel, ethyl acetate/hexane: 2/8) to give a white solid: 1H NMR (DMSO-d6) δ 4.06 (s, 3H, CH3), 4.13 (s, 3H, CH3), 7.14 (s, 1H, Ar—H), 7.82 (m, 2H, Ar—H), 8.29 (m, 2H, Ar—H), 10.54 (s, 1H, CHO).

reactant | 1,4-dimethoxy-naphthalene | 26.6 mmol, 5 g | COC1=CC=C(C2=CC=CC=C12)OC | C12H12O2
reactant | dichloromethyl methyl ether | 31.9 mmol, 3.66 g | COC(Cl)Cl | C2H4Cl2O
reactant | Water | 100 mL | O | H2O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 1,4-dimethoxy-naphthalene-2-carboxaldehyde | COC1=C(C=C(C2=CC=CC=C12)OC)C=O | C13H12O3
